US07285558B2
7-isobutyl-5-methyl-3-(1-methyl-4-propionyl-1H-pyrrol-2-yl)-2-{[6-(trifluoromethyl)quinolin-4-yl]methyl}-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 6-trifluoromethylquinoline-4-carbaldehyde, followed by 1-methyl-4-propionyl-1H-pyrrole-2-carbaldehyde. 567(M+H).

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 6-trifluoromethylquinoline-4-carbaldehyde | FC(C=1C=C2C(=CC=NC2=CC1)C=O)(F)F | C11H6F3NO
reactant | 1-methyl-4-propionyl-1H-pyrrole-2-carbaldehyde | CN1C(=CC(=C1)C(CC)=O)C=O | C9H11NO2
product | 7-isobutyl-5-methyl-3-(1-methyl-4-propionyl-1H-pyrrol-2-yl)-2-{[6-(trifluoromethyl)quinolin-4-yl]methyl}-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(C(C)C)N1C(N(C(C=2C1=NN(C2C=2N(C=C(C2)C(CC)=O)C)CC2=CC=NC1=CC=C(C=C21)C(F)(F)F)=O)C)=O | C29H29F3N6O3
